US04727192
Preparation of 2-(2-amino-3,5-dinitrophenyl)ethanol
0.17 Mole (35.7 g) of 2,3-dihydro-5,7-dinitrobenzofuran, prepared according to Chatelus Ann. Chim. [12], 4,505-547 (1949), is suspended in 350 ml of 20% strength ammonia solution and 220 ml of formamide. After 8 hours' heating at 110° C., a further 100 ml of 20% strength ammonia solution are added. Heating is maintained for 4 hours. When the reaction medium is cooled, the expected product precipitates.

reactant | 2,3-dihydro-5,7-dinitrobenzofuran | 0.17 Mole, 35.7 g | [N+](=O)([O-])C=1C=C(C2=C(CCO2)C1)[N+](=O)[O-] | C8H6N2O5
reactant | ammonia | N | H3N
solvent | formamide | 220 ml | C(=O)N | CH3NO
product | 2-(2-amino-3,5-dinitrophenyl)ethanol | NC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])CCO | C8H9N3O5
